US07488844B2
(iii) Ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate
To a solution of N-(2,3-dimethoxybenzyl)-N-heptylamine (1.46 g, 5.5 mmol) and {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (1.48 g, 5.0 mmol) in methylene chloride (50 mL) at 0° C. were added N,N-diisopropylethylamine (2.0 mL, 11.5 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (1.93 g, 6.0 mmol) and the reaction mixture was stirred at room temperature overnight and then concentrated in vacuo. The residue was taken up in ethyl acetate (200 mL) and the organic phase was washed with saturated aqueous NaHCO3 (3×100 mL), 5% HCl (3×100 mL), and brine (100 mL), dried over Na2SO4, and concentrated in vacuo. Purification on silica gel (100 g) with methanol (0-2% gradient) in methylene chloride as the eluent and collection of pure fractions yielded 1.57 g (58%) of a pale yellow oil.

reactant | N-(2,3-dimethoxybenzyl)-N-heptylamine | 5.5 mmol, 1.46 g | COC1=C(CNCCCCCCC)C=CC=C1OC | C16H27NO2
reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 5.0 mmol, 1.48 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N,N-diisopropylethylamine | 11.5 mmol, 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 6.0 mmol, 1.93 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 1.57 g, 58% | COC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCCCCC)C=CC=C1OC | C31H45NO7
